### ISSUE TITLE
`enum` with array/slice/`Vec` of itself breaks strict positivity

### ISSUE THREAD

**Issue by ojeda** [AeneasVerif/aeneas#1138]
Rust types like the following:

```rust
enum E {
    V([Box<E>; 1]),
}

enum E {
    V(Vec<E>),
}

enum E {
    V(&'static [E]),
}
```

generate (on def42472b698) e.g.:

```lean4
@[discriminant isize]
inductive E where
  | V : Slice E → E
```

which break strict positivity:

```txt
error: Ex.lean:20:0: (kernel) arg #1 of 'ex.E.V' contains a non valid occurrence of the datatypes being declared
```

because Aeneas' `Array`/`Slice`/`Vec` are `def`s, i.e. code like:

```lean4
def Slice (α : Type) := List α

inductive E where
  | V : Slice E → E
```

is not accepted.

**Comment by sonmarcho** [comment]
The main problem is the use of `Subtype`. A potential solution would be to encode `E` without using subtype, then add a well-formedness property on top, and finally define a custom matcher. Something like this:
```lean
open Aeneas.Std

/-- Define an auxiliary definition without subtypes -/
inductive E_aux where
  | V : List E_aux → E_aux

/-- Define a well-formedness predicate on the side -/
def E_aux.wellFormed (e : E_aux) : Prop :=
  match e with
  | .V ls => ls.length ≤ Usize.max ∧ ls.attach.allP (fun ⟨x, _⟩ => E_aux.wellFormed x)

/-- The definition we want is well-formed `E_aux` -/
def E := { e : E_aux // e.wellFormed }

/- AUXILIARY THEOREMS -/
theorem List.allP_iff_forall {α : Type u} (l : List α) (p : α → Prop) :
    l.allP p ↔ ∀ x ∈ l, p x := by
  induction l with
  | nil => simp [List.allP]
  | cons hd tl ih => rw [List.allP_cons, ih]; simp

/-- Unfold `wellFormed` on the `V` constructor (single step). -/
theorem E_aux.wellFormed_V (ls : List E_aux) :
    (E_aux.V ls).wellFormed =
      (ls.length ≤ Usize.max ∧ ls.attach.allP (fun ⟨x, _⟩ => E_aux.wellFormed x)) := by
  conv_lhs => rw [E_aux.wellFormed]

/-- Every element of a well-formed `V` node is itself well-formed. -/
theorem E_aux.wellFormed_mem {ls : List E_aux} (h : (E_aux.V ls).wellFormed)
    {x : E_aux} (hx : x ∈ ls) : x.wellFormed := by
  rw [E_aux.wellFormed_V, List.allP_iff_forall] at h
  exact h.2 ⟨x, hx⟩ (List.mem_attach ls ⟨x, hx⟩)

/-- The list stored in a well-formed `V` node is short enough to be a slice. -/
theorem E_aux.wellFormed_len {ls : List E_aux} (h : (E_aux.V ls).wellFormed) :
    ls.length ≤ Usize.max := by
  rw [E_aux.wellFormed_V] at h; exact h.1
/- END OF AUXILIARY THEOREMS -/

/-- We can finally define a custom matcher over `E` that has the signature we want -/
def E.match (e : E) (v_branch : Slice E → α) : α :=
  match h : e.val with
  | .V ls =>
    have hwf : (E_aux.V ls).wellFormed := h ▸ e.property
    let ls : Slice E := ⟨ ls.attach.map (fun x =>
      ⟨ x.val, E_aux.wellFormed_mem hwf x.property ⟩), by
        simp only [List.length_map, List.length_attach]
        exact E_aux.wellFormed_len hwf ⟩
    v_branch ls
```
As a first step we could patch the Aeneas generated code, then later we could make it so that either Aeneas generates automatically the code above, or we have a special elaborator that generates this code when we need to define types that break the positivity requirement because of a subtype.

On the short term, the main issue I have is that there is no way to register the custom matcher so that Lean understands it and we can use the nice `match ... with ...` syntax.
